US04321374
2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-benzylamino-1,3,5-triazine
2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine (5.0 g) was reacted with benzylamine (25.0 g) for 8 hours and 30 minutes at 150°-160° C. The reaction mixture was poured into an aqueous ammonia solution, extracted with chloroform and dried over anhydrous potassium carbonate and chloroform was distilled off. The resulting residue was treated with silica gel chromatography (eluent=ethyl acetate:triethylamine:ethanol=10:12:3) to yield crystals, which were recrystallized from cyclohexane to afford the desired product as white crystals melting at 88° C.

reactant | 2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-chloro-1,3,5-triazine | 5.0 g | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)Cl)C1CC(NC(C1)(C)C)(C)C | C25H46ClN7O2
reactant | benzylamine | 25.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | ammonia | N | H3N
product | 2,4-Bis{2-hydroxy-N-(2,2,6,6-tetramethyl-4-piperidyl)ethylamino}-6-benzylamino-1,3,5-triazine | OC(CNC1=NC(=NC(=N1)NCC(O)C1CC(NC(C1)(C)C)(C)C)NCC1=CC=CC=C1)C1CC(NC(C1)(C)C)(C)C | C32H54N8O2
